US08937071B2
A solution of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) pyridine (78 mg, 0.202 mmol), N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2,6-difluorophenyl)acetamide (110 mg, 0.202 mmol), PdCl2(dppf)-DCM adduct (16.50 mg, 0.020 mmol) and Cs2CO3 (132 mg, 0.404 mmol) in 1,4-dioxane (6 mL) and H2O (2 mL) was stirred at 110° C. for 15 min. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The residue was dissolved in DCM (60 mL) and washed with H2O (20 mL) and brine (20 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by preparative TLC (DCM/MeOH=10/1) to yield N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2,6-difluorophenyl)acetamide (70 mg, 0.071 mmol, 35.1% yield): 1H NMR (400 MHz, CD3OD) δ 7.97 (d, J=2.0 Hz, 1H), 7.84 (s, 1H), 7.71 (d, J=11.2 Hz, 1H), 7.46 (d, J=2.0 Hz, 1H), 7.39 (d, J=8.6 Hz, 2H), 7.37-7.13 (m, 8H), 6.90 (d, J=8.6 Hz, 2H), 5.39-5.34 (m, 2H), 4.61 (s, 2H), 4.27-4.20 (m, 2H), 4.18-4.10 (m, 2H), 3.86-3.82 (m, 2H), 3.78 (s, 3H), 1.42 (t, J=6.9 Hz, 3H), 1.19 (s, 2H); ES-LCMS m/z 723.2 (M+H).

reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) pyridine | 0.202 mmol, 78 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2,6-difluorophenyl)acetamide | 0.202 mmol, 110 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1F)Br)F)=O)C(F)(F)F | C24H19BrF5NO3
reactant | Cs2CO3 | 0.404 mmol, 132 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | PdCl2(dppf) DCM | 0.020 mmol, 16.50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2,6-difluorophenyl)acetamide | 0.071 mmol, 70 mg, 35.1% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1F)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C39H35F5N2O6
